US08022205B2
4-(2-Amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid methyl-(3-morpholin-4-yl-phenyl)-amide (D-226)
Using 4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid (3-bromo-phenyl)-methyl-amide (112 mg) and morpholine (15.5 mg) instead of 2-piperazin-1-yl-ethanol, in the same manner as Step C in Example 1-D-153, 4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid (3-morpholin-4-yl-phenyl)-amide was obtained as a crude product. The PMB groups were removed according to Deprotection method 3, to obtain the desired compound (1-D-226) as a yellow solid (47.3 mg, 61%).

reactant | 4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid (3-bromo-phenyl)-methyl-amide | 112 mg | BrC=1C=C(C=CC1)N(C(=O)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2)C | C38H39BrN8O4
reactant | morpholine | 15.5 mg | N1CCOCC1 | C4H9NO
reactant | 4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid (3-morpholin-4-yl-phenyl)-amide | N1(CCOCC1)C=1C=C(C=CC1)NC(=O)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2 | C41H45N9O5
product | 4-(2-Amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid methyl-(3-morpholin-4-yl-phenyl)-amide | 47.3 mg, 61% | CN(C(=O)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N)N2CCOCC2)C2=CC(=CC=C2)N2CCOCC2 | C26H31N9O3
